datasets/10k__Tet_Int.csv
SMILES Labelled
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[NH:10]([H])C([H])C(O)C([H])C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])C(O)C([H])[NH+:10]1([H]) 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[O-:21][CH:20]2(OCC)C3=C(C(C([NH+:10]2(C))C)O)C=CC=C3>>[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20](OCC)=[O:21])O)C  21=20;20,10=10"
"[H]C1C(O[C:20](N1[H])([O-:10])[Cl:21])CC>>[H]C1C(O[C:20](=[O:10])N1[H])CC.[Cl-:21] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CC)[H])[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)[H])C 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C([H])[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([NH][H])[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([NH][H])[O]C 21=20;20,10=10"
"[H][O:10]C(C)C(C)C([H])[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[O-:21][C:20]1([H])[O:10]C([H])C(C)N1[H]>>[O-:10]C([H])C(C)N([C:20]([H])=[O:21])[H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[O:10]([K])C(C)C([H])C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C([H])C(C)[O+:10]1([K]) 10=20;20,21=21"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])[H])[H].[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])[H])[H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])[H])CC)[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])CC)CC 10=20;20,21=21"
"[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C(C)=C(C)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)/C(C)=C(C)\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[NH]C7=CC=CC=C7 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]C)([O][H])[O][H].[Cl-]>>[Cl-].CC[O:10][H].C[NH+:21]=[C:20]([O][H])[O][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(O)C(C)C(C)C(CC)[O:10]1>>[O-:10]C(CC)C(C)C(C)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C(CC)[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
